US05300655
5-(3-Methyl-1,2,4-oxadiazol-5-yl)-2-thiophenecarboxylic acid
A mixture of methyl 5-(3-methyl-1,2,4-oxadiazol-5-yl)-2-thiophenecarboxylate, prepared according to Example 81, (1.09 g, 4.86 mmole) in 35 ml of 2N sodium hydroxide was diluted with 5 ml of ethanol and warmed to 65° C. for thirty minutes. The solution was cooled in an ice bath and acidified to pH 2 with concentrated hydrochloric acid. Filtration and drying furnished 870 mg (85% yield) of the title compound as an off-white solid. The analytical sample was recrystallized from methanol, m.p. 226°-8° C. Analysis: Calculated for C8H6N2O3S: C, 45.70; H, 2.88; N, 13.33%. Found: C, 45.57; H, 2.75; N, 13.37%. EIMS (m/z): 210 (M+, base) and 153 (M+ --C2H3NO, 99%); 1H-NMR (DMSO-d6) delta, 7.97 (1H, d, J 3.9 Hz), 7.82 (1H, d, J=3.9 Hz) and 2.40 (3H, s); ir (potassium bromide): 3112 (br), 1699, 1289, 1112 and 840 cm-1.

reactant | methyl 5-(3-methyl-1,2,4-oxadiazol-5-yl)-2-thiophenecarboxylate | CC1=NOC(=N1)C1=CC=C(S1)C(=O)OC | C9H8N2O3S
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 2N, 35 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-(3-Methyl-1,2,4-oxadiazol-5-yl)-2-thiophenecarboxylic acid | 870 mg, 85% yield | CC1=NOC(=N1)C1=CC=C(S1)C(=O)O | C8H6N2O3S
